US04249015
Anhydrous aluminum chloride (8.4 g; 0.063 mole) was added portionwise over a period of 2 hours to a stirred mixture of cyclohexene (108 g; 1.32 moles) and chloral (97 g; 0.653 mole), the temperature of which was maintained at 0° C. The reaction was allowed to proceed for a further 1 hour at 0° C. and then poured into a mixture of ice and concentrated hydrochloric acid. The reaction mixture was extracted three times with ether and the combined extracts washed with water (2×200 ml). The dried (MgSO4) extract was evaporated and the residue distilled to give crude product (116 g; 85% purity as judged by G.L.C.), b.p. 90°-94° C./0.1 mm. The crude product was redistilled through a Widmer column to give 1-(2-cyclohexen-1-yl)-2,2,2-trichloroethanol (98 g; 65% yield based on chloral; 93% purity as judged by G.L.C.) b.p. 67°-68° C./0.03 mm. A sample was redistilled for analysis.

reactant | aluminum chloride | 0.063 mole, 8.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | cyclohexene | 1.32 moles, 108 g | C1=CCCCC1 | C6H10
reactant | chloral | 0.653 mole, 97 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | hydrochloric acid | Cl | ClH
product | 1-(2-cyclohexen-1-yl)-2,2,2-trichloroethanol | 98 g, 65% yield | C1(C=CCCC1)C(C(Cl)(Cl)Cl)O | C8H11Cl3O
